US07091214B2
The method described in Part E of Examples 431–436 was used to treat 7-bromo-4-chloro-3-nitroquinoline (12.43 g, 43.45 mmol) with C-(tetrahydropyran-4-yl)methylamine (10 g, 87 mmol) to provide 15.0 g of (7-bromo-3-nitroquinolin-4-yl)(tetrahydropyran-4-ylmethyl)amine as a bright yellow solid.

reactant | 7-bromo-4-chloro-3-nitroquinoline | 43.45 mmol, 12.43 g | BrC1=CC=C2C(=C(C=NC2=C1)[N+](=O)[O-])Cl | C9H4BrClN2O2
reactant | C-(tetrahydropyran-4-yl)methylamine | 87 mmol, 10 g | O1CCC(CC1)CN | C6H13NO
product | (7-bromo-3-nitroquinolin-4-yl)(tetrahydropyran-4-ylmethyl)amine | 15.0 g | BrC1=CC=C2C(=C(C=NC2=C1)[N+](=O)[O-])NCC1CCOCC1 | C15H16BrN3O3
